US05254546
Part G: Preparation of 4-(naphth-1-yl)-2-n-propyl-1-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]imidazole-5-carboxaldehyde
4-(Naphth-1-yl)-2-n-propyl-1-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]imidazole-5-carboxaldehyde (1.50 g), THF (80 mL), and 10% HCl were stirred at room temperature. After 8 hr, the mixture was poured into ice/5% NaOH and the pH was adjusted to 10. The resultant solids were filtered and the pH of the filtrate was adjusted to 4-5 with 10% HCl. The turbide solution was extracted with 80/20 methylene chloride/i-propanol (3×100 mL), the organic phase was dried over sodium sulfate and evaporated under reduced pressure to yield 0.51 g of a white glass. NMR (CDCl3) δ 9.35 (s, 1H); 7.78 (m, 1H); 7.60-7.38 (m, 2H); 7.35-6.96 (m, 12H); 5.62 (s, 1H); 2.60 (m, 2H); 1.85 (m, 2H); 0.90 (t, 3H).

reactant | 4-(Naphth-1-yl)-2-n-propyl-1-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]imidazole-5-carboxaldehyde | 1.50 g | C1(=CC=CC2=CC=CC=C12)C=1N=C(N(C1C=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C50H40N6O
reactant | HCl | Cl | ClH
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 4-(naphth-1-yl)-2-n-propyl-1-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]imidazole-5-carboxaldehyde | 0.51 g | C1(=CC=CC2=CC=CC=C12)C=1N=C(N(C1C=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC | C31H26N6O
